US07319104B2
A solution of 5-ethyl-N-[2-(4-methoxy-3-methylphenyl)ethyl]-N-[4-(trifluoromethoxy)benzyl]pyrimidin-2-amine (1.12 g; 2.53 mmol) in dichloromethane (70 ml) was cooled in an ice bath and treated under nitrogen with boron tribromide (1M solution in dichloromethane; 2.78 ml). Allowed to warm to rt and additional boron tribromide (2.53 ml) was added. Stirred for 2 hr and concentrated. Azeotroped 3× with MeOH, redissolved in MeOH and treated with sodium methoxide (0.14 g; 2.53 mmol). Stirred for 30 minutes and concentrated. The residue was partitioned between ethyl acetate and water. The organic phase was dried over MgSO4, filtered and concentrated to afford 4-(2-{(5-ethylpyrimidin-2-yl)[4-(trifluoromethoxy)benzyl]amino}ethyl)-2-methylphenol as a dark brown oil (0.98 g; 90% crude yield) which was used in subsequent steps without further purification.

reactant | 5-ethyl-N-[2-(4-methoxy-3-methylphenyl)ethyl]-N-[4-(trifluoromethoxy)benzyl]pyrimidin-2-amine | 2.53 mmol, 1.12 g | C(C)C=1C=NC(=NC1)N(CC1=CC=C(C=C1)OC(F)(F)F)CCC1=CC(=C(C=C1)OC)C | C24H26F3N3O2
reactant | boron tribromide | 1M, 2.78 ml | B(Br)(Br)Br | BBr3
reactant | boron tribromide | 2.53 ml | B(Br)(Br)Br | BBr3
reactant | sodium methoxide | 2.53 mmol, 0.14 g | C[O-].[Na+]
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
product | 4-(2-{(5-ethylpyrimidin-2-yl)[4-(trifluoromethoxy)benzyl]amino}ethyl)-2-methylphenol | C(C)C=1C=NC(=NC1)N(CCC1=CC(=C(C=C1)O)C)CC1=CC=C(C=C1)OC(F)(F)F | C23H24F3N3O2
